US05834499
In 13 ml of ethanol, 4.71 g of (S)-2-pyrrolidinemethanol was dissolved, followed by the addition of 4.6 ml of acrylonitrile. The resulting mixture was heated under reflux for 2 hours. After the solvent was evaporated, the residue was dissolved in 70 ml of toluene, followed by the addition of 13 ml of triethylamine under ice-cooling. To the resulting mixture, 4.3 ml of methanesulfonyl chloride was added dropwise, followed by stirring at 0° C. for 10 minutes and then at room temperature for 30 minutes. After the addition of 15.7 g of potassium tert-butoxide, the mixture was stirred at room temperature for 16 hours. Water was added to the reaction mixture, and the toluene layer was separated and dried over anhydrous sodium sulfate. The solvent was evaporated and the resulting residue was subjected to silica gel column chromatography, whereby 5.22 g of (5S)-1-azabicyclo[3.3.0]octane-3-carbonitrile was obtained as a diastereomer mixture from the fraction eluted with chloroform-methanol-29% aqueous ammonia (100:10:1).

reactant | (S)-2-pyrrolidinemethanol | 4.71 g | N1[C@@H](CCC1)CO | C5H11NO
reactant | acrylonitrile | 4.6 ml | C(C=C)#N | C3H3N
reactant | ethanol | 13 ml | C(C)O | C2H6O
product | (5S)-1-azabicyclo[3.3.0]octane-3-carbonitrile | 5.22 g | N12CC(C[C@@H]2CCC1)C#N | C8H12N2
